US09376422B2
Compound 413: 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-N-((4-isopropyl-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methylbenzamide formate
The same way for the previous compound 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)benzamide formate prepared, the titled compound prepared using 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoic acid and 3-(Aminomethyl)-6-methyl-4-(propan-2-yl)-1,2-dihydropyridin-2-one HCl salt. After purification by reverse phase HPLC/MS (CAN-H2O containing 0.1% formic acid), the titled compound was obtained. 1H-NMR (500 MHz, CD3OD) δ ppm 8.43-8.25 (br, 1H), 7.15 (d, J=2.0 Hz, 1H), 7.08 (d, J=2.0 Hz, 1H), 6.25 (s, 1H), 4.52 (s, 2H), 4.40-4.34 (m, 1H), 4.29-4.21 (br, 2H), 3.90-3.79 (br, 2H), 3.48-3.40 (m, 1H), 3.00 (q, J=7.0 Hz, 2H), 2.92 (s, 3H), 2.34 (s, 3H), 2.28 (s, 3H), 1.24 (d, J=7.0 Hz, 6H), 0.90 (t, J=7.0 Hz, 3H). MS (ES) (M+H) 445.47.

reactant | 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoic acid | ClC=1C=C(C(=C(C(=O)O)C1)C)N(C1CN(C1)C)CC | C14H19ClN2O2
reactant | 3-(Aminomethyl)-6-methyl-4-(propan-2-yl)-1,2-dihydropyridin-2-one HCl salt | Cl.NCC=1C(NC(=CC1C(C)C)C)=O
product | 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-N-((4-isopropyl-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methylbenzamide formate | C(=O)O.ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C(C)C)C)=O)C1)C)N(C1CN(C1)C)CC | InChI=1S/C24H33ClN4O2.CH2O2/c1-7-29(18-12-28(6)13-18)22-10-17(25)9-20(16(22)5)23(30)26-11-21-19(14(2)3)8-15(4)27-24(21)31;2-1-3/h8-10,14,18H,7,11-13H2,1-6H3,(H,26,30)(H,27,31);1H,(H,2,3)
